US07662830B2
2. (6-{4-[6-(4-Fluoro-phenyl)-2-(2-methyl-pyrrolidin-1-yl)-pyrimidin-4-yl]-3-(R)-methyl-piperazin-1-yl}-5-methyl-pyridin-3-yl)-methanol
Dissolve 6-{4-[6-(4-fluoro-phenyl)-2-(2-methyl-pyrrolidin-1-yl)-pyrimidin-4-yl]-3-(R)-methyl-piperazin-1-yl}-5-methyl-nicotinic acid methyl ester (78 mg, 0.155 mmol) in DCM and cool to −78° C. using a dry ice/acetone bath. Add diisobutylaluminum hydride (0.619 mL, 1M in hexanes) dropwise and continue stirring for 1 h at −78° C. Add excess Na2SO4.10H2O and stir at −78° C. for 5 min and then remove the cooling bath and allow to come to room temperature. Filter the mixture through celite washing with DCM, and then concentrate under reduced pressure. Purify the resulting oil using flash chromatography (30-50% EtOAc/hexanes eluent) to afford the title compound as a white foam. 1H NMR (400 MHz, CDCl3): δ 1.32 (m, 3H, CH3); 1.40 (m, 3H, CH3); 1.69 (m, 1H, CH2CH2); 1.90 (m, 1H, CH2CH2); 2.05 (m, 2H, CH2CH2); 2.36 (s, 3H, Ar—CH3); 3.00 (m, 1H); 3.08 (m, 1H); 3.37 (m, 2H); 3.48 (m, 1H); 3.68 (m, 2H); 4.34 (m, 2H); 4.69 (s, 2H, CH2OH); 4.71 (m, 1H); 6.24 (s, 1H, Ar—H); 7.10 (m, 2H); 7.48 (d, 1H, J=2.0 Hz); 8.00 (m, 2H); 8.11 (s, 1H).

reactant | 6-{4-[6-(4-fluoro-phenyl)-2-(2-methyl-pyrrolidin-1-yl)-pyrimidin-4-yl]-3-(R)-methyl-piperazin-1-yl}-5-methyl-nicotinic acid methyl ester | 0.155 mmol, 78 mg | COC(C1=CN=C(C(=C1)C)N1C[C@H](N(CC1)C1=NC(=NC(=C1)C1=CC=C(C=C1)F)N1C(CCC1)C)C)=O | C28H33FN6O2
reactant | diisobutylaluminum hydride | 1M, 0.619 mL | [H-].C(C(C)C)[Al+]CC(C)C
solvent | DCM | C(Cl)Cl | CH2Cl2
product | (6-{4-[6-(4-Fluoro-phenyl)-2-(2-methyl-pyrrolidin-1-yl)-pyrimidin-4-yl]-3-(R)-methyl-piperazin-1-yl}-5-methyl-pyridin-3-yl)-methanol | FC1=CC=C(C=C1)C1=CC(=NC(=N1)N1C(CCC1)C)N1[C@@H](CN(CC1)C1=C(C=C(C=N1)CO)C)C | C27H33FN6O
